US06307050B1
starting with 4-fluoroanthranilic acid comprising cyclization with phosgene to create an intermediate -A, followed by methylation to create an intermediate -B, then by reaction with dimsyl sodium to create an intermediate -C, then by reaction with triethyl orthoformate in the presence of piperdine and acetic acid to give flosequinan. The overall yield of the disclosed process is greater than about 16%.

reactant | 4-fluoroanthranilic acid | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dimsyl sodium | [Na+].CS(=O)[CH2-]
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | flosequinan | CN1C=C(C(=O)C2=C1C=C(C=C2)F)[S+](C)[O-] | C11H10FNO2S
